US06673921B2
Diethyl 2-[(benzyloxy)imino]malonate
Di-ethylketomalonate (60 g) was added at 20° C. to a stirred suspension of O-benzylhydroxylamine (57.8 g) in IMS (500 ml) containing pyridine (30 ml). The reaction was heated at 75° C. for 4 hr. The reaction was cooled and solvents removed under reduced pressure. The residue was partitioned between EtOAc (500 ml) and water (300 ml) and the organic layer separated, washed with water (250 ml) and dried over MgSO4. Solvents were evaporated to give the title compound 95.3 g, as a colourless oil (99% th, ca 3% w/w residual EtOAc) which was used without further purification.

reactant | Di-ethylketomalonate | 60 g | C(C)OC(C(C(=O)OCC)=O)=O | C7H10O5
reactant | O-benzylhydroxylamine | 57.8 g | C(C1=CC=CC=C1)ON | C7H9NO
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | Diethyl 2-[(benzyloxy)imino]malonate | 95.3 g | C(C1=CC=CC=C1)ON=C(C(=O)OCC)C(=O)OCC | C14H17NO5
